US09216964B2
To a microwave tube is added 2,3,5-trifluoropyridine (2.0 g, 15 mmol), concentrated HCl (12.5 mL, 150 mmol). The mixture is irradiated with microwave for 30 min at 130° C. The reaction mixture is cooled to ambient temperature, diluted with 100 mL of water, extracted with dichloromethane three times. The organic phase is further washed with brine, dried over Na2SO4 and dried to give 2-chloro-3,5-difluoropyridine as a greenish solid. The compound is used without further purification.

reactant | 2,3,5-trifluoropyridine | 15 mmol, 2.0 g | FC1=NC=C(C=C1F)F | C5H2F3N
reactant | HCl | 150 mmol, 12.5 mL | Cl | ClH
solvent | water | 100 mL | O | H2O
product | 2-chloro-3,5-difluoropyridine | ClC1=NC=C(C=C1F)F | C5H2ClF2N
